US06310070B1
An amidation reaction and post-treatment were carried out under the same conditions as in Example 19, using 1.50 g (5.98 mmol) of 4-amino-1-(3-chlorobenzyl)-5-imidazole carboxamide which was prepared in the same manner as in Example 51 and nicotinic acid instead of cyclopentylacetic acid to obtain 1.65 g of 1-(3-chlorobenzyl)-4-(3-pyridylcarbonylamino)-5-imidazolecarboxamide (yield 78%).

reactant | 4-amino-1-(3-chlorobenzyl)-5-imidazole carboxamide | 5.98 mmol, 1.50 g | NC=1N=CN(C1C(=O)N)CC1=CC(=CC=C1)Cl | C11H11ClN4O
reactant | nicotinic acid | C(C1=CN=CC=C1)(=O)O | C6H5NO2
product | 1-(3-chlorobenzyl)-4-(3-pyridylcarbonylamino)-5-imidazolecarboxamide | 1.65 g, yield 78% | ClC=1C=C(CN2C=NC(=C2C(=O)N)NC(=O)C=2C=NC=CC2)C=CC1 | C17H14ClN5O2
